US08729219B2
Into a 3 L three-neck flask equipped with a stirrer, and a cooling tube, chlorosulfonic acid (233.0 g, 2 mol) was added, and then 2,5-dichlorobenzophenone (100.4 g, 400 mmol) was added. The mixture was reacted for 8 hours using an oil bath at 100° C. After a predetermined period of time, the reaction liquid was slowly poured into broken ice (1000 g), and extraction using ethyl acetate was carried out. An organic layer was washed with a saline solution, and was dried with magnesium sulfate. Then, the ethyl acetate was distilled away, thereby obtaining a crude crystal of pale yellow (3-(2,5-dichlorobenzoyl)benzene sulfonic acid chloride). The crude crystal was employed at the subsequent step without purification.

reactant | chlorosulfonic acid | 2 mol, 233.0 g | ClS(=O)(=O)O | ClHO3S
reactant | 2,5-dichlorobenzophenone | 400 mmol, 100.4 g | ClC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)Cl | C13H8Cl2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(2,5-dichlorobenzoyl)benzene sulfonic acid chloride | ClC1=C(C(=O)C=2C=C(C=CC2)S(=O)(=O)Cl)C=C(C=C1)Cl | C13H7Cl3O3S
